* Z:\home\sebastian\FIUBA-2do Cuatrimestre\Analisis de Circuitos\TP\Simulaciones Ltspice\TP\Draft2.asc
Vg P001 0 AC 1
R1 N002 P001 100
R2 N004 0 10k
R3 V3 N004 1k
R4 V2 N002 1k
R6 N003 V2 100k
C1 N003 V3 10µ
R5 V1 N002 1k
C2 N001 V1 10µ
R7 V3 N001 100k
X§U1 N004 N002 NC_01 NC_02 V2 level1 Avol=1Meg GBW=10Meg Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg
X§U2 0 N003 NC_03 NC_04 V3 level1 Avol=1Meg GBW=10Meg Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg
X§U3 N001 0 NC_05 NC_06 V1 level1 Avol=1Meg GBW=10Meg Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg
.ac dec 1000 0.001 1000000
.lib UniversalOpAmp1.lib
.backanno
.end
