* Z:\home\sebastian\FIUBA-2do Cuatrimestre\Analisis de Circuitos\TP\Simulaciones Ltspice\TP\Draft3.asc
X§U1 0 N001 NC_01 NC_02 N005 TL081
C1 N001 N004 10n
X§U2 0 N005 NC_03 NC_04 N004 TL081
R1 N005 N004 10k
R2 0 N005 10k
R4 N003 N005 8k
C2 N003 P001 10n
V3 P001 0 AC 1
X§U3 0 N003 NC_05 NC_06 N002 TL081
C3 N002 N003 10n
R5 N002 N003 6k
R6 N002 N001 8k
.ac dec 1000 1 10000
.lib Z:\home\sebastian\FIUBA-2do Cuatrimestre\Analisis de Circuitos\TP\Simulaciones Ltspice\TL081_modelo.txt
.backanno
.end
