* Z:\home\sebastian\FIUBA-2do Cuatrimestre\Analisis de Circuitos\TP\Simulaciones Ltspice\TP\Draft4.asc
X§U1 N004 N002 vcc+ vcc- N002 TL081
X§U2 N005 N001 vcc+ vcc- N001 TL081
C1 N005 0 22n
V1 N003 0 AC 1
R2 N004 N003 1
C2 N001 N004 22n
R1 N005 N002 1
V2 N012 0 AC 1
R3 P001 N012 10k
C3 N009 P001 22n
X§U3 N009 N011 vcc+ vcc- N010 TL081
C4 N010 N009 22n
R4 N010 N009 10k
R5 N010 N011 5.6k
R6 N011 0 10k
V3 vcc+ 0 15
V4 0 vcc- 15
X§U4 N008 N007 vcc+ vcc- N006 TL081
V5 N008 0 SINE(0 1 1)
R7 N006 N007 15000000
.ac dec 1000 1 50000000
.lib Z:\home\sebastian\FIUBA-2do Cuatrimestre\Analisis de Circuitos\TP\Simulaciones Ltspice\TL081_modelo.txt
.backanno
.end
