* Z:\home\sebastian\FIUBA-2do Cuatrimestre\Analisis de Circuitos\TP\Simulaciones Ltspice\TP\Draft5.asc
V1 N003 0 SINE(1 1 0) AC 1
R1 N004 N003 10k
C1 N005 N004 22n
R2 N002 N005 10k
C2 N002 N005 22n
R3 0 N001 10k
R4 N002 N001 5.6k
X§U1 N005 N001 Vcc+ Vcc- N002 TL081
.ac dec 1000 1 90000000
.lib Z:\home\sebastian\FIUBA-2do Cuatrimestre\Analisis de Circuitos\TP\Simulaciones Ltspice\TL081_modelo.txt
.backanno
.end
